US04562281
To a 500-ml four-necked flask equipped with a thermometer, stirring apparatus, condenser and dropping funnel were added 82.0 g (0.241 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 200 g of toluene and 23.9 g (0.290 mole) of triethylamine. After replacing the air in the container with nitrogen, 25 g (0.276 mole) of acryloyl chloride was added dropwise with stirring. After completion of the dropwise addition, stirring was continued for 1 hour, excess triethylamine was neutralized with a dilute hydrochloric acid and the formed triethylamine hydrochloride was then removed by washing with water. Toluene was then removed by evaporation from the toluene layer after completion of the washing, and the residue obtained was recrystallized from 20 g of n-hexane to obtain 90.0 g of 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate as a white crystal. Melting point, 132°-134° C. Yield, 95%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 0.241 mole, 82.0 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | acryloyl chloride | 0.276 mole, 25 g | C(C=C)(=O)Cl | C3H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.290 mole, 23.9 g | C(C)N(CC)CC | C6H15N
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate | 90.0 g | C(C=C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H34O3
